US08486967B2
d) (4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-piperidin-4-yl-amine dihydrochloride
To a solution of 4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.575 g, 3.8 mmol) in methylene chloride (13.8 mL) was added 2 M HCl solution in diethyl ether (6.9 mL). The reaction was stirred at room temperature over the weekend. The solvent was removed under reduced pressure and the residue was treated with diethyl ether and evaporated. The title compound was obtained as a light yellow solid (1.32 g, 90%).

reactant | 4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.8 mmol, 1.575 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C23H31N3O2S
reactant | HCl | 2 M | Cl | ClH
solvent | methylene chloride | 13.8 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 6.9 mL | C(C)OCC | C4H10O
product | (4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1CCCC2=C1N=C(S2)NC2CCNCC2 | InChI=1S/C18H23N3S.2ClH/c1-2-5-13(6-3-1)15-7-4-8-16-17(15)21-18(22-16)20-14-9-11-19-12-10-14;;/h1-3,5-6,14-15,19H,4,7-12H2,(H,20,21);2*1H
